US08252825B2
Step B: 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate
A N,N-dimethylformamide (20 mL) solution of (4R,5R)-4,5-bis(nitrooxy)hexyl 1-chloroethyl carbonate (2.94 g, 8.89 mmol) was added to a stirred N,N-dimethylformamide (20 mL) suspension of 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylic acid (7.46 g, 10.9 mmol) and cesium carbonate (3.95 g, 12.1 mmol). The solution was stirred at 70° C. for 2 hours. Water (100 mL) was added, and the solution was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with 20-60% ethyl acetate/hexanes to give the title compound as a white solid. 1H NMR (500 MHz, CDCl3) δ 7.84 (dd, J=1.6, 7.3 Hz, 1H), 7.76 (dd, J=1.0, 7.9 Hz, 1H), 7.58 (dd, J=1.0, 7.9 Hz, 1H), 7.45 (dt, J=1.7, 7.4 Hz, 1H), 7.42 (dt, J=1.7, 7.4 Hz, 1H), 7.32 (t, J=7.4 Hz, 3H), 7.29 (dd, J=1.5, 7.4 Hz, 1H), 7.24 (t, J=7.8 Hz, 6H), 7.17 (t, J=7.9 Hz, 1H), 6.98 (d, J=8.2 Hz, 2H), 6.92 (d, J=8.2 Hz, 6H), 6.85 (q, J=5.4 Hz, 1H), 6.78 (d, J=8.2 Hz, 2H), 5.56 (s, 2H), 5.12-5.22 (m, 2H), 4.58-4.68 (m, 2H), 4.06-4.20 (m, 2H), 1.64-1.94 (m, 4H), 1.41-1.46 (m, 6H), 1.33 (d, J=6.4 Hz, 3H); LC-MS: m/z 999.5 (M+Na).

reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | (4R,5R)-4,5-bis(nitrooxy)hexyl 1-chloroethyl carbonate | 8.89 mmol, 2.94 g | C(OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])(OC(C)Cl)=O | C9H15ClN2O9
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylic acid | 10.9 mmol, 7.46 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)O | C43H34N6O3
reactant | cesium carbonate | 12.1 mmol, 3.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Water | 100 mL | O | H2O
product | 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)OC(C)OC(=O)OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-] | C52H48N8O12
